US05589476
2.1.2. 1-(2-Chloro-3-nitrophenoxy)propan-2-amine
7.2 g (0.0414 mol) of 1,1-dimethylethyl 2-hydroxy-1-methylethylcarbamate and 10.8 g (0.0414 mol) 15 of triphenylphosphine are placed in a 500 ml, three-necked, round-bottomed flask containing 140 ml of benzene. The mixture is cooled in an ice bath and 6.5 ml (0.0414 mol) of diethyl azodicarboxylate are added dropwise. The mixture is left stirring for 15 minutes, 4.8 g (0.027 mol) of 2-chloro-3-nitrophenol are added, the temperature of the reaction mixture is left to return to room temperature and the reaction mixture is left stirring overnight. The precipitate obtained is then filtered and the filtrate evaporated. The residue is taken up in 100 ml of a 3N hydrochloric acid solution and is then heated at 80° C. in an oil bath for 2 hours. The phases are separated, the aqueous phase is recovered, the pH is adjusted to alkaline with a concentrated sodium hydroxide solution and extraction is carried out three times with ether. Washing is carried out with water and drying is carried out. There are obtained 6 g of product which is used as is in the following stage.

reactant | 1,1-dimethylethyl 2-hydroxy-1-methylethylcarbamate | 0.0414 mol, 7.2 g | OCC(C)NC(OC(C)(C)C)=O | C8H17NO3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.0414 mol, 6.5 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-chloro-3-nitrophenol | 0.027 mol, 4.8 g | ClC1=C(C=CC=C1[N+](=O)[O-])O | C6H4ClNO3
solvent | benzene | 140 ml | C1=CC=CC=C1 | C6H6
product | 1-(2-Chloro-3-nitrophenoxy)propan-2-amine | 6 g | ClC1=C(OCC(C)N)C=CC=C1[N+](=O)[O-] | C9H11ClN2O3
